US07064136B2
3-Cyano-2-ethyl-1-naphthoyl chloride (0.49 g) was combined with N-[2-(3,4-dichlorophenyl)-4-pentenylbutyl]-N-[(carboxymethyl)methyl]-amine (0.57 g) and triethyl amine under standard acylation conditions to afford N-[2-(3,4-dichlorophenyl)-4-pentenylbutyl]-N-[(carboxymethyl)methyl]-3-cyano-2-ethyl-1-naphthamide (0.51 g) as a solid after purification by chromatography (5:4:1 Hexane:DCM:EtOAc); MS: m/z 509 (M+); 1H NMR (CDCl3) δ 8.29 (s), 8.26 (s), 7.83 (d), 7.98-7.30 (m), 7.01 (d), 6.80 (s), 6.53 (d), 5.30-5.11 (m), 4.85-4.52 (m), 4.35-4.03 (m), 4.22 (s), 3.84 (s), 3.80 (s), 3.45 (dd), 3.32 (dd), 3.20-2.91 (m), 1.37 (t).

reactant | 3-Cyano-2-ethyl-1-naphthoyl chloride | 0.49 g | C(#N)C=1C(=C(C2=CC=CC=C2C1)C(=O)Cl)CC | C14H10ClNO
reactant | N-[2-(3,4-dichlorophenyl)-4-pentenylbutyl]-N-[(carboxymethyl)methyl]-amine | 0.57 g | ClC=1C=C(C=CC1Cl)C(CNCCC(=O)O)CCC=CCCC | C18H25Cl2NO2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | N-[2-(3,4-dichlorophenyl)-4-pentenylbutyl]-N-[(carboxymethyl)methyl]-3-cyano-2-ethyl-1-naphthamide | 0.51 g | ClC=1C=C(C=CC1Cl)C(CN(C(=O)C1=C(C(=CC2=CC=CC=C12)C#N)CC)CCC(=O)O)CCC=CCCC | C32H34Cl2N2O3
